US08114894B2
2-(4-Ethyl-piperidin-1-yl)acetonitrile
The title compound was prepared according to general procedure G described in Scheme 3 from 4-ethylpiperidine and 2-chloroacetonitrile. The crude solution was used directly without further purification.

reactant | 4-ethylpiperidine | C(C)C1CCNCC1 | C7H15N
reactant | 2-chloroacetonitrile | ClCC#N | C2H2ClN
product | 2-(4-Ethyl-piperidin-1-yl)acetonitrile | C(C)C1CCN(CC1)CC#N | C9H16N2
